US07268159B2
Synthesis of 1-(4-{[(4-tert-butylphenyl)sulfonyl]amino}benzyl)-1H-indole-4-carboxylic acid
The title compound was prepared from 1-(4-nitro-benzyl)-1H-indole-4-carboxylic acid methyl ester and 4-tert-butylbenzenesulfonyl chloride followed the procedure of Example 3 Step 2 as a pale pink solid: 1H NMR (DMSO-d6) δ 1.24 (s, 9H), 5.35 (s, 2H), 6.96 (d, J=3.1 Hz, 1H), 7.03 (d, J=8.7 Hz, 2H), 7.07 (d, J=8.0 Hz, 2H), 7.15 (t, J=7.8 Hz, 1H), 7.53 (d, J=8.8 Hz, 2H), 7.57 (d, J=3.2 Hz, 1H), 7.62-7.68 (m, 3H), 7.70 (dd, J=7.5, 0.9 Hz, 1H), 10.26 (br s, 1H), 12.59 (br s, 1H); MS (ESI) m/z 463 (MH+), 461 ([M−H]−); HRMS calcd for C26H27N2O4S: 463.1690; found (ESI+): 463.1674.

reactant | 1-(4-nitro-benzyl)-1H-indole-4-carboxylic acid methyl ester | COC(=O)C=1C=2C=CN(C2C=CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H14N2O4
reactant | 4-tert-butylbenzenesulfonyl chloride | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C10H13ClO2S
product | 1-(4-{[(4-tert-butylphenyl)sulfonyl]amino}benzyl)-1H-indole-4-carboxylic acid | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(CN2C=CC=3C(=CC=CC23)C(=O)O)C=C1 | C26H26N2O4S
